2178-02-10 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Studies done yesterday:
   Echo, CT torso and head, Bronch.
   Needed Levophed throughout the night for BP support.
   Became agitated and attempted to pull out ET tube x 3, thus sedation
   (fentanyl and versed) were increased.
   Also needed bear-hugger intermittently for hypothermia to 94F
   Received about 2L of IVF
 ULTRASOUND - At [**2178-2-9**] 08:30 AM
   cardiac echo
 EKG - At [**2178-2-9**] 10:30 AM
 BRONCHOSCOPY - At [**2178-2-9**] 01:50 PM
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   angioedema;
   Angiotensin Receptor Antagonist
   angioedema;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-2-9**] 10:30 PM
   Vancomycin - [**2178-2-9**] 11:00 PM
   Metronidazole - [**2178-2-10**] 12:00 AM
   Ampicillin - [**2178-2-10**] 04:00 AM
   Acyclovir - [**2178-2-10**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-2-9**] 02:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-10**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 90 (86 - 93) bpm
   BP: 146/76(103) {83/51(64) - 146/76(103)} mmHg
   RR: 25 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
    CVP: 9 (5 - 12)mmHg
   Total In:
                                                                  8,567 mL
                                                                    543 mL
   PO:
   TF:
   IVF:
                                                                  7,667 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    500 mL
   Urine:
                                                                  2,685 mL
                                                                    500 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  5,647 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/37/171/22/-2 (at 7am)
   Ve: 11.9 L/min
   PaO2 / FiO2: 342
   Physical Examination
   General Appearance: intubated. Opens eyes to verbal stimuli, following
   simple commands. In restraints due to agitation.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: diminished at bases bilaterally. Blood oozing out
   of RIJ line site.
   Abdominal: Soft, Bowel sounds present, Distended, tenderness not
   assessed
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Neurologic: Responds to: Not assessed, Oriented (to): self and place,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   369 K/uL
   10.5 g/dL
   117 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.2 mEq/L
   27 mg/dL
   109 mEq/L
   140 mEq/L
   34.5 %
   27.0 K/uL
        [image002.jpg]
                             [**2178-2-9**]  03:45 AM
                             [**2178-2-9**]  04:59 AM
                             [**2178-2-9**]  06:08 AM
                             [**2178-2-9**]  12:34 PM
                             [**2178-2-9**]  04:54 PM
                             [**2178-2-9**]  06:33 PM
                             [**2178-2-9**]  06:56 PM
                             [**2178-2-9**]  10:28 PM
                             [**2178-2-10**]  01:56 AM
                             [**2178-2-10**]  06:32 AM
   WBC
   38.6
   25.9
   27.0
   Hct
   36.6
   34.2
   34.5
   Plt
   400
   303
   369
   Cr
   1.4
   1.4
   1.3
   TropT
   0.31
   0.26
   TCO2
   19
   19
   19
   20
   20
   23
   23
   Glucose
   [**Telephone/Fax (3) 6209**]
   Other labs: PT / PTT / INR:19.8/36.9/1.8, CK / CKMB /
   Troponin-T:247/12/0.26, ALT / AST:60/171, Alk Phos / T Bili:204/1.2,
   Amylase / Lipase:129/9, Differential-Neuts:84.0 %, Band:1.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:229 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:3.1 g/dL, LDH:534 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.8 mg/dL
   - Legionella Urinary Ag - neg.
   - [**Last Name (un) **] Stim: 14.6 -> 19.1
   - CXR [**2178-2-10**] (my read) blossoming pleural effusions R>L
   - ECHO: Mod dilated LA. Mild LVH. Mildly dilated LV cavity w/ mild
   global hypokinesis. LVEF = 40 %. Increased LV filling pressure
   (PCWP>18mmHg). Normal RV size/motion. Mild AS. No AR. Mild MR.
   Mild->mod pulm HTN. Small circumferential effusion.
   - CT Abd: 1.Large R pleural effusion. 2.New mod L pleural effusion 3.
   Cecal and ascending colonic wall thickening, consistent with colitis.
   4. Colonic diverticulosis, no diverticulitis. 5.unchanged ascites.
   - CT head:
   There is no intracranial hemorrhage. There is no mass, mass
   effect, edema, or evidence of vascular territorial infarction. No acute
   intracranial process
   - Bronchoscopy: Scant secretions, normal anatomy. BAL of superior seg
   RLL -> Gram stain neg for PMNs/organisms. No viral antigens detected.
   Assessment and Plan
   This is a 72M with septic shock and respiratory failure.
   .
   #  Respiratory failure: On admission, pt was hypoxic to low 90s on
   non-rebreather thus was intubated. Likely due to septic shock. Pt does
   have h/o chronic pleural effusion R>L, likely transudate but can hide
   infectious consolidations. PNA Has heart failure. Could have ARDS but
   unlikely (does not fit the definition)
   -  Pressure support trials as tolerated-  reduce sedation (fentanyl,
   versed) and use zyprexa SL for agitation; if pt has difficulty being
   weaned down on ventilator, consider therapeutic [**Female First Name (un) 217**].
   -  Follow ABG
   -  Follow imaging.
   .
   #  Septic shock/ fever: Unclear source. Top differentials include
   recurrent C. diff, ischemic bowel sounds, PNA, endocarditis (poor
   dentition).
   - C. diff pending; pt has not had a BM since admission. Will give PR
   laxative to facilitate process. Continue PO Vanc and IV flagyl for
   eminclude meningitis (AMS, high fevers), C. diff (pt has h/o C. diff
   colitis, currently has abdominal pain and high WBC count), and PNA.
   -  Vanc/Zosyn/Ceftriaxone/Decadron given in the ED; Ampicillin
   (Listeria), Acyclovir (HSV), and Flagyl (pt h/o C. diff) given on
   admission to ICU. Would continue Vanc/Ceftriaxone/Amp/Acyclovir and
   Flagyl and add PO Vanco. Need to call for ID approval in AM for
   ceftriaxone 2 g.
   -  CT torso to check for any foci of infection
   -  LP after giving FFP for coagulopathy
   -  Narrow down abx coverage once we have more data regarding etiology
   -  Follow CVP and pulse pressure as a surrogate marker of volume status
   and adequate resuscitation
   -  check central venous sat to check for cardiogenic and septic
   components of shock
   -  Check stool c. diff toxin and culture
   .
   #  Cardiac: Trop 0.10->0.19->0.26; Differential include demand ischemia
   and ACS. Cardiac cath 3 years ago at [**Hospital1 609**] showed no flow limiting
   lesions per patient
   -  325mg Asa
   -  Follow CEs and EKGs
   -  Echo
   -  Cards consult
   -  Hold heparin for now as suspicion of demand ischemia is high and pt
   is already coagulopathic (INR 2.0)
   .
   #  Change in Mental Status:  Pt has tendency to become delirious during
   acute illnesses; or may be a presenting symptom of meningitis.
   - Likely due to
   .
   #  Idiopathic Myelofibrosis: ? converting to acute leukemia
   - check for blasts
   - hold hydroxyurea
   - Heme/Onc c/s in AM
   .
   #  Acute on chronic renal failure: Cr 1.4, baseline 1.2 ish.
   -  Avoid nephrotoxins
   - Follow Cr
   .
   #  PAF with pacemaker:
   -  EKG
   -  EP saw patient, adjusted settings to increase v-pacing to 90. Will
   re-consult PRN.
   .
   #  CHF (EF of 45%)
   -  Check Echo
   -  hold lasix in the setting of hypotension
   .
   #  HTN:
   -  Hold home dose of Toprol XL 25mg daily in the setting of hypotension
   -  Continue asa and simvastatin
   .
   #  PVD: decreased pulses in lower extremities
   -  Hold pentoxyfilline for now
   .
   #  Coagulopathy
   -  Check DIC labs
   .
   #  Elevated liver enzymes
   -  AST higher than ALT; pt apparently stopped drinking 20+ years ago.
   [**Month (only) 51**] be due to cardiac ischemia and subsequent cell death.
   -  Will be able to visualize liver and check for cirrhosis when CT
   done
   -  Side effect of medication?
   .
   #  Hypothyroidism
   -  Check TSH and Free T4
   -  Continue home dose synthroid in the mean time.
   .
   #  Steroids: will continue for now as pt could have meningitis (esp.
   pneumococcal) and because pt received etomidate for intubation which
   can cause adrenal insufficiency.
   .
   # FEN: IVF PRN, replete electrolytes, NPO
   .
   # Prophylaxis: Pneumoboots, no heparin SQ (INR 2.0), H2 blocker.
   .
   # Access: 2 peripherals, Right IJ (placed [**2178-2-9**]), A line (placed
   [**2178-2-9**])
   .
   # Code: full, confirmed with patient and his wife.
   .
   # Communication: family; HCP is wife [**Doctor First Name 96**]: [**Telephone/Fax (1) 6184**])
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-2-9**] 01:53 AM
   20 Gauge - [**2178-2-9**] 02:28 AM
   Arterial Line - [**2178-2-9**] 03:19 AM
   Multi Lumen - [**2178-2-9**] 04:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-02-11 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    Bronch labs: negative so far
   - PICC not placed secondary to elevated WBC count
   - failed PS trial (no spontaneous breathing)
   - stool sample sent (C. diff neg x 1)
   - tried to pull out ETT, x-ray placement still okay
   - had some episodes of agitation, Zydis did not help. Did not use
   haldol due to baseline QT interval of 490 ms. [**First Name (Titles) 6239**] [**Last Name (Titles) 6240**] and
   Versed
   - couldn
t come off levo due to MAP that dropped into 50s.
   - more alert & appropriate in the evening
   This AM RSBI was 141.
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   angioedema;
   Angiotensin Receptor Antagonist
   angioedema;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-2-9**] 10:30 PM
   Acyclovir - [**2178-2-10**] 06:00 AM
   Ampicillin - [**2178-2-10**] 09:56 AM
   Vancomycin - [**2178-2-10**] 08:00 PM
   Ciprofloxacin - [**2178-2-10**] 10:00 PM
   Metronidazole - [**2178-2-11**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   [**Year (4 digits) 6240**] - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-11**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 90 (90 - 91) bpm
   BP: 109/56(76) {82/46(60) - 161/145(150)} mmHg
   RR: 22 (20 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
    CVP: 8 (4 - 9)mmHg
   Length of stay +7.5L
   Total In:
                                                                  3,157 mL
                                                                    298 mL
   PO:
                                TF:
   IVF:
                                                                  3,097 mL
                                                                    298 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    365 mL
   Urine:
                                                                  1,220 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,937 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG at 3:45am: 7.43/30/207/21/-2
   Ve: 12.5 L/min
   PaO2 / FiO2: 518
   Physical Examination
   General Appearance: intubated. Sedated, not following commands.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: diminished at bases bilaterally, otherwise clear
   Abdominal: Soft, Bowel sounds present, Distended, tenderness not able
   to assess
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Neurologic: Responds to: Not assessed, Oriented (to): self and place,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   264 K/uL
   9.6 g/dL
   100 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   27 mg/dL
   112 mEq/L
   142 mEq/L
   31.3 %
   25.2 K/uL
         [image002.jpg]
                             [**2178-2-9**]  12:34 PM
                             [**2178-2-9**]  04:54 PM
                             [**2178-2-9**]  06:33 PM
                             [**2178-2-9**]  06:56 PM
                             [**2178-2-9**]  10:28 PM
                             [**2178-2-10**]  01:56 AM
                             [**2178-2-10**]  06:32 AM
                             [**2178-2-10**]  03:24 PM
                             [**2178-2-11**]  02:45 AM
                             [**2178-2-11**]  03:45 AM
   WBC
   38.6
   25.9
   27.0
   18.8
   25.2
   Hct
   36.6
   34.2
   34.5
   31.9
   31.3
   Plt
   400
   303
   369
   271
   264
   Cr
   1.4
   1.4
   1.3
   1.2
   1.2
   TropT
   0.31
   0.26
   TCO2
   20
   20
   23
   23
   21
   Glucose
   [**Telephone/Fax (3) 6224**]05
   100
   Other labs: PT / PTT / INR:17.8/36.4/1.6, CK / CKMB /
   Troponin-T:437/8/0.26, ALT / AST:64/176, Alk Phos / T Bili:155/0.7,
   Amylase / Lipase:73/11, Differential-Neuts:84.0 %, Band:1.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:229 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:2.7 g/dL, LDH:503 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Stool studies:
[**2178-2-10**] FECAL CULTURE (Pending):
   CAMPYLOBACTER CULTURE (Pending):
   FECAL CULTURE - R/O VIBRIO (Pending):
   FECAL CULTURE - R/O YERSINIA (Pending):
   FECAL CULTURE - R/O E.COLI 0157:H7 (Pending):
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2178-2-11**]):
      Feces negative for C.difficile toxin A & B by EIA.
           (Reference Range-Negative).
[**2178-2-9**] 1:47 pm Rapid Respiratory Viral Screen & Culture
      BRONCHIAL LAVAGE.
   Respiratory Viral Culture (Preliminary): not yet available
   Rapid Respiratory Viral Antigen Test (Final [**2178-2-9**]):
      Respiratory viral antigens not detected.
      SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B AND
      RSV.
[**2178-2-9**] 1:47 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2178-2-9**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   LEGIONELLA CULTURE (Preliminary): not yet available
   FUNGAL CULTURE (Preliminary): not yet available
   [1][**2178-2-9**]
   URINE
   Legionella Urinary Antigen
   NEGATIVE
   [2][**2178-2-9**]
   URINE
   URINE CULTURE-FINAL
   NO GROWTH
   [3][**2178-2-8**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   NO GROWTH TO DATE
   [4][**2178-2-8**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   NO GROWTH TO DATE
   CXR [**2178-2-10**]
   ETT little changed, now 6.9 cm above carina, still projecting between
   inferior
   clavicles. OGT still in stomach. Dense left retrocardiac opacity
   persists.
   While lateral-most aspect of lateral sulci are excluded, decreased
   density
   over right lung base and decreased thickening of lateral right pleural
   space
   suggests decreased right pleural effusion, possibly due to interval
   thoracentesis? No definite pneumothorax seen.
   Assessment and Plan
   This is a 72M with septic shock and respiratory failure.
   .
   #  Respiratory failure: On admission, pt was hypoxic to low 90s on
   non-rebreather thus was intubated. Likely due to septic shock. Pt does
   have h/o chronic pleural effusion R>L. RSBI 141 this AM however during
   rounds, had little respiratory drive. Having difficulty lifting
   sedation due to periods of agitation. Zyprexa had little effect; can
   use haldol due to risk of QT prolongation (490ms at baseline)
   - Decrease set rate of ventilation as pt is somewhat alkelemic at this
   time, and let his own ventilatory drive kick in. Recheck ABG.
   - check old records to see if any other meds have been of use in the
   past when he was agitated.
   - Try Precedex for control of agitation
   -  Pressure support trials as tolerated; if pt has difficulty being
   weaned down on ventilator despite control of agitation and minimization
   of sedation, consider therapeutic [**Female First Name (un) 217**].
   -  Follow ABG
   -  Follow imaging.
   .
   #  Septic shock/ fever: Unclear source. Top differentials include
   recurrent C. diff, ischemic bowel disease, PNA. All microbiology
   studies have been negative
   - To improve BP, limit sedation and give IVF boluses judiciously (give
   if CVP and UOP also down). goal MAP>60-65, SBP>90.
   - If pressor requirement increases, consider adding vasopressin
   - CT torso showing colitis. C. diff neg x 1. Given the high suspicion,
   will check again. Continue PO Vanc and IV flagyl for empiric therapy of
   C. diff
   - Continue IV Vanc and ceftriaxone for broad empiric coverage in the
   absence of microbiology data
   - If above investigations negative for source of infection, consider
   diagnostic [**Female First Name (un) 217**] for ?empyema (low suspicion though, since fluid is
   free flowing and chronic)
   .
   #  Steroids: Cortstim 14.6->19.1. Abnormal in the setting of acute
   illness
   - Started Hydrocort 100 mg Q8 hrs yesterday. Will continue given
   difficulty coming off levophed and the setting of acute illness.
   #  Cardiac: trop leak in the setting of demand ischemia. Cardiac cath 3
   years ago at [**Hospital1 609**] showed no flow limiting lesions per patient. Echo
   done; no evidence of new areas of dysfunction
   -  Continue 325mg Asa, simva
   -  Hold heparin for now as suspicion of demand ischemia is high and pt
   is already coagulopathic (INR 1.6)
   .
   #  Change in Mental Status:  Pt has tendency to become delirious during
   acute illnesses; or may be a presenting symptom of meningitis.
   - see above regarding management of sedation and agitation.
   .
   #  Idiopathic Myelofibrosis: pt
s outpt hematologist visited pt
   informally
   - hold hydroxyurea/interferon
   .
   #  Chronic renal failure: at baseline, 1.2
   -  Avoid nephrotoxins
   -  Follow Cr
   .
   #  PAF with pacemaker:  stable, rate well-controlled. V-paced at this
   time.
   -  EP saw patient, adjusted settings to increase ventricular demand
   pacing to 90. Will re-consult PRN.
   .
   #  CHF (EF of 45%): Repeat echo showing stable EF.
   -  hold lasix in the setting of hypotension
   .
   #  h/o HTN
   -  Hold home dose of Toprol XL 25mg daily in the setting of hypotension
   -  Continue asa and simvastatin
   .
   #  PVD: decreased pulses in lower extremities
   -  Hold pentoxyfilline for now
   .
   #  Coagulopathy: INR near 2.
   -  unclear etiology
   - site of RIJ oozing continuously -> will place a PICC instead and pull
   the line and send tip for Cx
   .
   #  Elevated liver enzymes; stable transaminases, T.bili improved
   -  monitor LFTs
   .
   #  Hypothyroidism: TSH is elevated but Free T4 WNL. Likely sick
   euthyroid in the setting of acute illness.
   -  Continue home dose synthroid
   .
   # FEN: IVF PRN, replete electrolytes, start TF today. Nutrition consult
   placed
   .
   # Prophylaxis: Pneumoboots, start HSQ today as INR is now 1.6, H2
   blocker.
   .
   # Access: 1 PIV, RIJ (place [**2178-2-9**]), A line (placed [**2178-2-9**])
   .
   # Code: full, confirmed with patient and his wife.
   .
   # Communication: family; HCP is wife [**Doctor First Name 96**]: [**Telephone/Fax (1) 6184**])
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-2-9**] 01:53 AM
   Arterial Line - [**2178-2-9**] 03:19 AM
   Multi Lumen - [**2178-2-9**] 04:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);

2178-02-12 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: change in mental status
   24 Hour Events:
 STOOL CULTURE - At [**2178-2-11**] 04:16 PM
   c.diff sample
 BLOOD CULTURED - At [**2178-2-11**] 04:30 PM
   cvl
   - Vent set rate down to 16 -> ABG 7.37/36/171 --> decreased rate
   further to 14 --> 7.35/39/148
   - Fentanyl/versed d/c'd and Precedex started with bolus
   - tube feeding started-> residual 140cc, so held
   - ID rejected IV vancomycin. Last dose 8 pm [**2178-2-11**]
   - heme recs: cont. hydroxyurea, hold IFN, replace vit K
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   angioedema;
   Angiotensin Receptor Antagonist
   angioedema;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-2-9**] 10:30 PM
   Acyclovir - [**2178-2-10**] 06:00 AM
   Ampicillin - [**2178-2-10**] 09:56 AM
   Ciprofloxacin - [**2178-2-10**] 10:00 PM
   Metronidazole - [**2178-2-11**] 07:40 AM
   Vancomycin - [**2178-2-11**] 10:00 PM
   Infusions:
   Dexmedetomidine (Precedex) - 0.4 mcg/Kg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-2-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-12**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 90 (90 - 92) bpm
   BP: 102/49(68) {88/46(61) - 175/87(120)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
    CVP: 12 (6 - 16)mmHg
   Total In:
                                                                  1,333 mL
                                                                    187 mL
   PO:
   TF:
                                                                     77 mL
                                                                     60 mL
   IVF:
                                                                  1,186 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    170 mL
   Urine:
                                                                    960 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    373 mL
                                                                     17 mL
                                     LOS + 8L
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 616 (616 - 616) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 17 cmH2O
   Plateau: 10 cmH2O
   Compliance: 61.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/39/148/23/-2
   Ve: 6.6 L/min
   PaO2 / FiO2: 370
   Physical Examination
   General Appearance: intubated. Sedated, not following commands.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: diminished at bases bilaterally, otherwise clear
   Abdominal: Soft, Bowel sounds present, Distended, tenderness not able
   to assess
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Neurologic: Responds to: Not assessed, Oriented (to): self and place,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   232 K/uL
   10.1 g/dL
   105 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.1 mEq/L
   24 mg/dL
   114 mEq/L
   142 mEq/L
   33.2 %
   34.9 K/uL
        [image002.jpg]
                             [**2178-2-9**]  10:28 PM
                             [**2178-2-10**]  01:56 AM
                             [**2178-2-10**]  06:32 AM
                             [**2178-2-10**]  03:24 PM
                             [**2178-2-11**]  02:45 AM
                             [**2178-2-11**]  03:45 AM
                             [**2178-2-11**]  02:34 PM
                             [**2178-2-11**]  06:38 PM
                             [**2178-2-12**]  03:47 AM
                             [**2178-2-12**]  04:12 AM
   WBC
   27.0
   18.8
   25.2
   34.9
   Hct
   34.5
   31.9
   31.3
   33.2
   Plt
   [**Telephone/Fax (3) 6270**]32
   Cr
   1.3
   1.2
   1.2
   1.1
   TCO2
   23
   23
   21
   22
   22
   23
   Glucose
   117
   105
   100
   105
   Other labs: PT / PTT / INR:16.4/33.7/1.5, CK:51, ALT / AST:50/124, Alk
   Phos / T Bili:156/0.6, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL,
   LDH:429 IU/L, Mg++:2.5 mg/dL, PO4:3.1 mg/dL;  C. diff neg x 2
   Assessment and Plan
   This is a 72M with septic shock and respiratory failure.
   .
   #  Respiratory failure: Improving.  On admission, pt was hypoxic to low
   90s on non-rebreather thus was intubated. Likely due to septic shock.
   Pt does have h/o chronic pleural effusion R>L. RSBI 141 this AM however
   during rounds, had little respiratory drive. Had difficulty lifting
   sedation on fentanyl & versed due to periods of agitation. Zyprexa had
   little effect; can
t use haldol due to risk of QT prolongation (490ms
   at baseline).  Did much better overnight on precedex.  Tolerating
   minimal pressure support this morning.
   -  Attempt extubation today
   -  Follow ABG
   .
   #  Septic shock/ fever: Unclear source. Top differentials include
   recurrent C. diff, ischemic bowel disease, PNA. All microbiology
   studies have been negative to date.
   - To improve BP, limit sedation and give IVF boluses judiciously (give
   if CVP and UOP also down). goal MAP>60-65, SBP>90.
   - If pressor requirement increases, consider adding vasopressin
   - CT torso showing colitis. C. diff neg x 2. Given the high suspicion,
   will check again. Continue PO Vanc for empiric therapy of C. diff.
   Will stop IV flagyl ([**2-12**]).  Radiographic results could be changes
   related to his prior episodes of C. diff.  Additional stool studies
   still pending.
   - Continue ceftriaxone for empiric coverage for pneumonia in the
   absence of microbiology data
   - If above investigations negative for source of infection, consider
   diagnostic [**Female First Name (un) 217**] for ?empyema (low suspicion though, since fluid is
   free flowing and chronic)
   .
   #  Steroids: Cortstim 14.6->19.1. Abnormal in the setting of acute
   illness.  Started Hydrocort 100 mg Q8 hrs [**2-10**]. Will stop on [**2-12**] given
   overall improvement.
   #  Cardiac: trop leak in the setting of demand ischemia. Cardiac cath 3
   years ago at [**Hospital1 609**] showed no flow limiting lesions per patient. Echo
   done; no evidence of new areas of dysfunction
   -  Continue 325mg Asa, simva
   -  Hold heparin for now as suspicion of demand ischemia is high and pt
   is already coagulopathic (INR 1.6)
   -  Will ask EP to decrease rate of pacemaker as acute illness
   resolving.
   .
   #  Change in Mental Status:  Pt has tendency to become delirious during
   acute illnesses; or may be a presenting symptom of meningitis.  Did
   much better on precedex than on fentanyl & versed.  Patient
s prior
   episodes of agitation may be an adverse reaction to benzos.
   .
   #  Idiopathic Myelofibrosis: pt
s outpt hematologist visited pt
   informally
   - resume hydroxyurea;  hold interferon
   .
   #  Chronic renal failure: at baseline, 1.1
   -  Avoid nephrotoxins
   -  Follow Cr
   .
   #  PAF with pacemaker:  stable, rate well-controlled. V-paced at this
   time.
   -  EP saw patient, adjusted settings to increase ventricular demand
   pacing to 90. Will re-consult and ask to decrease rate as patient has
   improved.
   .
   #  CHF (EF of 45%): Repeat echo showing stable EF.
   -  hold lasix in the setting of hypotension
   .
   #  h/o HTN
   -  Hold home dose of Toprol XL 25mg daily in the setting of hypotension
   -  Continue asa and simvastatin
   .
   #  PVD: decreased pulses in lower extremities
   -  Hold pentoxyfilline for now
   .
   #  Coagulopathy: INR near 2.  Patient received vitamin K.  INR now 1.5
   -  unclear etiology
   - site of RIJ oozing continuously -> will place a PICC instead and pull
   the line and send tip for Cx
   .
   #  Elevated liver enzymes; stable transaminases, T.bili improved
   -  monitor LFTs
   .
   #  Hypothyroidism: TSH is elevated but Free T4 WNL. Likely sick
   euthyroid in the setting of acute illness.
   -  Continue home dose synthroid
   .
   # FEN: IVF PRN, replete electrolytes, Nutrition consult placed.  TF
   held overnight due to residuals.  Will consider PO diet post-extubation
   if MS improved.
   .
   # Prophylaxis: Pneumoboots, start HSQ today as INR is now 1.6, H2
   blocker.
   .
   # Access: 1 PIV, RIJ (place [**2178-2-9**]), A line (placed [**2178-2-9**])
   .
   # Code: full, confirmed with patient and his wife.
   .
   # Communication: family; HCP is wife [**Doctor First Name 96**]: [**Telephone/Fax (1) 6184**])
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-2-9**] 03:19 AM
   Multi Lumen - [**2178-2-9**] 04:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Correction to access: Patient had PICC line placed today.  A-line
   already removed.  Will remove IJ once clear that patient is stable and
   will not require reintubation and pressors.
   ------ Protected Section Addendum Entered By:[**Name (NI) 914**] [**Last Name (NamePattern1) 3143**], MD
   on:[**2178-2-12**] 14:31 ------

2178-02-13 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated
   - Advanced diet
   - PICC placed, CVC d/c'd
   - EP decreased pacer HR to 70 bpm
   - Precedex weaned off
 PICC LINE - START [**2178-2-12**] 01:10 PM
 INVASIVE VENTILATION - STOP [**2178-2-12**] 01:20 PM
 MULTI LUMEN - STOP [**2178-2-12**] 01:59 PM
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   angioedema;
   Angiotensin Receptor Antagonist
   angioedema;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ampicillin - [**2178-2-10**] 09:56 AM
   Ciprofloxacin - [**2178-2-10**] 10:00 PM
   Metronidazole - [**2178-2-11**] 07:40 AM
   Vancomycin - [**2178-2-11**] 10:00 PM
   Ceftriaxone - [**2178-2-12**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-2-13**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-13**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.5
   HR: 70 (70 - 93) bpm
   BP: 125/46(73) {91/38(55) - 132/62(85)} mmHg
   RR: 18 (12 - 21) insp/min
   SpO2: 100% on 2L NC
   Heart rhythm: V Paced
    CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  2,300 mL
                                                                    752 mL
   PO:
                                                                    950 mL
                                                                    600 mL
   TF:
                                                                     60 mL
   IVF:
                                                                  1,290 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                    160 mL
   Urine:
                                                                    540 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,760 mL
                                                                    592 mL
   Respiratory support
   O2 Delivery Device: 2L Nasal cannula
   ABG at 3AM: 7.38/31/70/20/-5
   Physical Examination
   General Appearance: intubated. Sedated, not following commands.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: diminished at bases bilaterally, otherwise clear
   Abdominal: Soft, Bowel sounds present, Distended, tenderness not able
   to assess
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Neurologic: Responds to: Not assessed, Oriented (to): self and place,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   322 K/uL
   10.6 g/dL
   89 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.7 mEq/L
   26 mg/dL
   111 mEq/L
   139 mEq/L
   34.8 %
   51.6 K/uL
        [image002.jpg]
                             [**2178-2-10**]  03:24 PM
                             [**2178-2-11**]  02:45 AM
                             [**2178-2-11**]  03:45 AM
                             [**2178-2-11**]  02:34 PM
                             [**2178-2-11**]  06:38 PM
                             [**2178-2-12**]  03:47 AM
                             [**2178-2-12**]  04:12 AM
                             [**2178-2-12**]  01:13 PM
                             [**2178-2-13**]  02:49 AM
                             [**2178-2-13**]  02:53 AM
   WBC
   18.8
   25.2
   34.9
   51.6
   Hct
   31.9
   31.3
   33.2
   34.8
   Plt
   271
   264
   232
   322
   Cr
   1.2
   1.2
   1.1
   1.2
   TCO2
   21
   22
   22
   23
   21
   19
   Glucose
   105
   100
   105
   89
   Other labs: PT / PTT / INR:16.0/32.0/1.4, CK / CKMB /
   Troponin-T:47/8/0.26, ALT / AST:47/92, Alk Phos / T Bili:174/0.5,
   Amylase / Lipase:73/11, Differential-Neuts:84.0 %, Band:1.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:229 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:495 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.6 mg/dL
[**2178-2-10**] 3:23 pm STOOL     CONSISTENCY: FORMED      Source: Stool.
   FECAL CULTURE (Pending):
   CAMPYLOBACTER CULTURE (Final [**2178-2-12**]):    NO CAMPYLOBACTER FOUND.
   FECAL CULTURE - R/O VIBRIO (Final [**2178-2-12**]):    NO VIBRIO FOUND.
   FECAL CULTURE - R/O YERSINIA (Final [**2178-2-12**]):    NO YERSINIA FOUND.
   FECAL CULTURE - R/O E.COLI 0157:H7 (Pending):
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2178-2-11**]):
      Feces negative for C.difficile toxin A & B by EIA.
           (Reference Range-Negative).
   BCx [**2-8**], [**2-11**], [**2-12**] NGTD
   CXR [**2178-2-13**]
   (my read) Right-sided effusion looks improved
   Assessment and Plan
   This is a 72M with MDS and h/o recurrent C diff who presented with
   septic shock and respiratory failure.
   .
   #  Respiratory failure: Resolved. Successfully extubated yesterday
   .
   #  Septic shock/ fever: Resolved. Afebrile with stable BP off pressors.
   Unclear source. Top differentials include recurrent C. diff, ischemic
   bowel disease, PNA (aspiration PNA/pneumonitis). All microbiology
   studies have been negative to date.
   - CT torso showing colitis. C. diff neg x 2. Given the high suspicion,
   will check again. Continue PO Vanc for empiric therapy of C. diff.  IV
   flagyl stopped [**2-12**].  Will need PO vanc for at least 2 weeks after
   finishing ceftriaxone. Consider Vanc taper as well since pt has h/o
   recurrent C. diff
   - Continue ceftriaxone for empiric coverage for pneumonia in the
   absence of microbiology data
 plan for a 10 day course
   - Pleural effusions unlikely to be empyema, as they have been chronic;
   also free-flowing. Will defer thoracentesis for now.
   - Elevated white count today likely related to steroid administration x
   3 days (stopped yesterday) and myelofibrosis (started hydroxylurea
   yesterday)
   .
   #  Steroids: Cortstim 14.6->19.1. Abnormal in the setting of acute
   illness.  Gave 3 days of Hydrocort burst for support while in shock and
   intubated. Stopped yesterday
   #  Cardiac: trop leak in the setting of demand ischemia. Cardiac cath 3
   years ago at [**Hospital1 609**] showed no flow limiting lesions per patient. Echo
   done; no evidence of new areas of dysfunction. Deferred anticoagulation
   with heparin as ACS/plaque rupture unlikely.
   -  Continue 325mg Asa, simva
   -  EP decr
d demand pacing to 70 as pt doing better.
   .
   #  Change in Mental Status: Resolved now off of all sedatives.
   Mentating clearly. Pt has tendency to become delirious during acute
   illnesses.  Did much better on precedex than on fentanyl & versed.
   Patient
s prior episodes of agitation may be an adverse reaction to
   benzos.
   .
   #  Idiopathic Myelofibrosis: pt
s outpt hematologist visited pt
   informally; WBC now 51 today (likely more reflective of myelofibrosis
   than infection given overall improvement in pt
s condition)
   - resumed hydroxyurea yesterday;  hold interferon
   - will email pt
s hematologist Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**] with an update
   .
   #  Chronic renal failure: at baseline, 1.1. UOP not great- wait for pt
   to autodiurese
   -  Avoid nephrotoxins
   -  Follow Cr
   .
   #  PAF with pacemaker:  stable, V-paced at this time.
   -  Appreciate EP help; demand pacing was increased to 90 on admission
   for shock, then decreased to 70 yesterday as pt doing better
   - Restart bbker today
   .
   #  CHF (EF of 45%): Repeat echo showing stable EF.
   -  hold lasix in the setting of normotension.
   .
   #  h/o HTN; now stable with SBP 110-130s.
   -  restart metoprolol 12.5 mg [**Hospital1 7**] today (pt on toprol 25 mg Qday at
   home)
   -  Continue asa and simvastatin
   .
   #  PVD: decreased pulses in lower extremities
   -  Hold pentoxyfilline for now
   .
   #  Coagulopathy: INR near 2.  Patient received vitamin K.  INR now
   stable in mid-1
   .
   #  Elevated liver enzymes; stable transaminases, T.bili improved
   -  monitor LFTs
   .
   #  Hypothyroidism: TSH is elevated but Free T4 WNL. Likely sick
   euthyroid in the setting of acute illness.
   -  Continue home dose synthroid
   .
   # FEN: IVF PRN, replete electrolytes, Nutrition consult placed.
   Advance  diet as tolerated
   .
   # Prophylaxis: Pneumoboots, HSQ, H2 blocker. PT consult placed.
   .
   # Access: 1 PIV, RIJ pulled yesterday, A line d/c
d this am.
   .
   # Code: full, confirmed with patient and his wife.
   .
   # Communication: family; HCP is wife [**Doctor First Name 96**]: [**Telephone/Fax (1) 6184**])
   .
   # Disposition: transfer to floor later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-2-9**] 03:19 AM
   PICC Line - [**2178-2-12**] 01:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: